US06995144B2
1-(1-Benzylpiperidin-4-yl)-2-(2-methoxyphenyl)ethanone
After dissolving 1.34 g of o-anisaldehyde in 10 ml of methanol, 1.83 g of p-toluenesulfonyl hydrazide was added, the mixture was stirred for 2 hours at room temperature and then 725 mg of potassium methoxide and a solution of 1.00 g of 1-benylpiperidine-4-carboxaldehyde in methanol (3 ml) was added, and the mixture was shielded from light and stirred overnight at 55° C. Water was added to the reaction solution, and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: toluene/ethyl acetate) to obtain the title compound (249 mg, 16% yield).

reactant | o-anisaldehyde | 1.34 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | potassium methoxide | 725 mg | C[O-].[K+]
reactant | 1-benylpiperidine-4-carboxaldehyde | 1.00 g | C(C1=CC=CC=C1)N1CCC(CC1)C=O | C13H17NO
reactant | Water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1-Benzylpiperidin-4-yl)-2-(2-methoxyphenyl)ethanone | 249 mg, 16% yield | C(C1=CC=CC=C1)N1CCC(CC1)C(CC1=C(C=CC=C1)OC)=O | C21H25NO2
